US07612084B2
N-{5-[(1R)-1-{[tert-Butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]-2-hydroxyphenyl}methanesulfonamide
N-{2-(benzyloxy)-5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]phenyl}methanesulfonamide (Preparation 14, 200 mg, 0.2 mmol), and palladium hydroxide (20% by weight on carbon, 50 mg, 0.07 mmol) were dissolved in ethanol (5 ml), then ammonium formate (74 mg, 1.2 mmol) was added and heated to 80° C. for 5 minutes then stirred at 75° C. for 1 hour. Reaction was cooled to room temperature and the mixture was filtered through Arbocel™ and the solvent removed in vacuo. to yield the title compound as a white foam, 190 mg.

reactant | N-{2-(benzyloxy)-5-[(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]phenyl}methanesulfonamide | 0.2 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(C=C1)OCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)NS(=O)(=O)C | C55H77N3O6SSi
reactant | ammonium formate | 1.2 mmol, 74 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.07 mmol, 50 mg | [OH-].[Pd+2].[OH-]
product | N-{5-[(1R)-1-{[tert-Butyl(dimethyl)silyl]oxy}-2-({2-[4-(4-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}butoxy)phenyl]ethyl}amino)ethyl]-2-hydroxyphenyl}methanesulfonamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C48H71N3O6SSi
